US07435823B2
Step (b) Preparation of methyl 5-fluoro-6-hydroxy-1-naphthoate
To a stirred solution of methyl 6-hydroxy-1-naphthoate (25 g, 123.8 mmol) in anhydrous acetonitrile (130 mL), SelectFluor (45 g, 127.5 mmol) was added and the reaction vessel sealed (sealed tube). The reaction mixture was heated to 85° C. for 3 d. The reaction mixture was allowed to cool to RT, diluted with ethyl acetate and washed with water, then brine, dried with Na2SO4, filtered and evaporated. The mixture was purified by column chromatography using methylene chloride as the eluent. The title compound was obtained as a tan solid.

reactant | methyl 6-hydroxy-1-naphthoate | 123.8 mmol, 25 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C12H10O3
reactant | SelectFluor | 127.5 mmol, 45 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 130 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-fluoro-6-hydroxy-1-naphthoate | FC1=C2C=CC=C(C2=CC=C1O)C(=O)OC | C12H9FO3
